US09056873B2
Step B: 3-Cyclopropyl-5-(tributylstannyl)isothiazole
To a cold (−78° C.) solution of 3-cyclopropyl-5-iodoisothiazole (100 mg, 0.398 mmol) in anhydrous THF (2.0 mL) was added n-butyllithium (0.299 mL, 0.478 mmol) dropwise. The reaction mixture was stirred for 60 minutes at −78° C. A solution of tributylchlorostannane (0.129 mL, 0.478 mmol) in anhydrous THF (2.0 mL) was added to the reaction mixture, which was stirred for 30 minutes −78° C. and subsequently allowed to warm to ambient temperature over a 1 hour period. Saturated aqueous sodium bicarbonate was added to the reaction mixture. The aqueous phase was extracted with EtOAc and the combined organic phase was dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (19:1) to give the title compound as a colorless oil (142.8 mg, 87%). 1H NMR (500 MHz, CDCl3) δ ppm 0.85-0.93 (m, 9H), 0.95-1.05 (m, 4H), 1.09-1.17 (m, 6H), 1.28-1.38 (m, 6H), 1.47-1.61 (m, 6H), 2.20-2.29 (m, 1H), 6.93 (s, 1H).

reactant | 3-cyclopropyl-5-iodoisothiazole | 0.398 mmol, 100 mg | C1(CC1)C1=NSC(=C1)I | C6H6INS
reactant | n-butyllithium | 0.478 mmol, 0.299 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 0.478 mmol, 0.129 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-Cyclopropyl-5-(tributylstannyl)isothiazole | 142.8 mg, 87% | C1(CC1)C1=NSC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H6NS.3C4H9.Sn/c1-2-5(1)6-3-4-8-7-6;3*1-3-4-2;/h3,5H,1-2H2;3*1,3-4H2,2H3;
